US05686424
L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] 1-methyl-3-phenylpropylamide Hydrochloride
Following the procedure described in Example 120, the coupling of N-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl]-L-proline hydrochloride (250 mg, 0.69 mmol) and 1-methyl-3-phenylpropylamine (0.34 mL, 2.1 mmol) provided, after treatment with HCl in Et2O, 40 mg of the hydrochloride salt of L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 1-methyl-3-phenylpropylamide as a foam.

reactant | HCl | Cl | ClH
reactant | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 1-methyl-3-phenylpropylamide | COC=1C=C(C=C(C1OC)OC)C(CC(CCC1=CC=CC=C1)(C)NC([C@H]1NCCC1)=O)=O | C26H34N2O5
solvent | Et2O | CCOCC | C4H10O
product | L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] 1-methyl-3-phenylpropylamide Hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C(CC(CCC1=CC=CC=C1)(C)NC([C@H]1NCCC1)=O)=O | InChI=1S/C26H34N2O5.ClH/c1-26(13-12-18-9-6-5-7-10-18,28-25(30)20-11-8-14-27-20)17-21(29)19-15-22(31-2)24(33-4)23(16-19)32-3;/h5-7,9-10,15-16,20,27H,8,11-14,17H2,1-4H3,(H,28,30);1H/t20-,26?;/m0./s1
